US08980904B2
3-Chloro-4-methoxybenzyl alcohol (20 g, 116 mmol) was dissolved in 200 mL of DMF, NaH (7.0 g, 174 mmol) was added under ice-water-bath. After 1 h of reaction, ethyl 4-chloro-2-(methylmercapto)pyrimidine-5-carboxylate (27 g, 116 mmol) was added in portions for continuing the reaction for 3 h. 300 mL of water was added, extraction was performed with ethyl acetate, the organic layer was dried, concentrated and separated with silica gel column (petroleum ether: ethyl acetate=10:1) to obtain ethyl 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylate as white solid (5.0 g, 12%).

reactant | 3-Chloro-4-methoxybenzyl alcohol | 116 mmol, 20 g | ClC=1C=C(CO)C=CC1OC | C8H9ClO2
reactant | NaH | 174 mmol, 7.0 g | [H-].[Na+]
reactant | ethyl 4-chloro-2-(methylmercapto)pyrimidine-5-carboxylate | 116 mmol, 27 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | water | 300 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | ethyl 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylate | 5.0 g, 12% | ClC=1C=C(COC2=NC(=NC=C2C(=O)OCC)SC)C=CC1OC | C16H17ClN2O4S
